US06278013B1
Methyl 8-cyano-1-cyclopropyl-7-[(1S,6S)-2,8-diazabicyclo[4.3.0]nonan-8-yl]-6-fluoro-1,4-dihydro-4-oxo-3-quinolinecarboxylate
200 mg (0.625 mmol) of methyl 8-cyano-1-cyclopropyl-7-chloro-6-fluoro-1,4-dihydro-4-oxo-3-quinolinecarboxylate, 86 mg (0.683 mmol) of (1S,6S)-2,8-diazabicyclo[4.3.0]nonane and 150 mg (1.34 mmol) of 1,4-diazabicyclo[2.2.2]-octane are stirred in 6 ml of acetonitrile at room temperature for 48 hours. Thereafter, the mixture is evaporated and the residue is partitioned between 15 ml of chloroform and 20 ml of saturated sodium carbonate solution. The organic phase is separated off, the aqueous phase is extracted again with chloroform and, after drying with sodium sulfate, the combined extracts are evaporated. For purification, the residue is chromatographed over silica gel with ethyl acetate/ethanol/25% strength aqueous ammonia solution.

reactant | methyl 8-cyano-1-cyclopropyl-7-chloro-6-fluoro-1,4-dihydro-4-oxo-3-quinolinecarboxylate | 0.625 mmol, 200 mg | C(#N)C=1C(=C(C=C2C(C(=CN(C12)C1CC1)C(=O)OC)=O)F)Cl | C15H10ClFN2O3
reactant | (1S,6S)-2,8-diazabicyclo[4.3.0]nonane | 0.683 mmol, 86 mg | [C@@H]12NCCC[C@H]2CNC1 | C7H14N2
reactant | 1,4-diazabicyclo[2.2.2]-octane | 1.34 mmol, 150 mg | N12CCN(CC1)CC2 | C6H12N2
solvent | acetonitrile | 6 ml | C(C)#N | C2H3N
product | Methyl 8-cyano-1-cyclopropyl-7-[(1S,6S)-2,8-diazabicyclo[4.3.0]nonan-8-yl]-6-fluoro-1,4-dihydro-4-oxo-3-quinolinecarboxylate | C(#N)C=1C(=C(C=C2C(C(=CN(C12)C1CC1)C(=O)OC)=O)F)N1C[C@@H]2CCCN[C@@H]2C1 | C22H23FN4O3
